US05041669
In a procedure described by Cannon, J. G. et al. in J. Med. Chem., V.25, p. 1442 (1982), 4, 5-dimethoxy-1-indanone is reacted with n-butylnitrite in methanol and upon acidification with HCl, 4,5-dimethoxy-2-oximino-1-indanone is recovered as a precipitate. This is added to a major amount of glacial acetic acid and a minor amount of concentrated sulfuric acid and hydrogenated over a palladium on carbon catalyst to produce 4,5-dimethoxy-2-aminoindan hydrochloride, which is then recovered.

reactant | 4, 5-dimethoxy-1-indanone | COC1=C2CCC(C2=CC=C1OC)=O | C11H12O3
reactant | n-butylnitrite | C(CCC)ON=O | C4H9NO2
reactant | HCl | Cl | ClH
reactant | 4,5-dimethoxy-2-oximino-1-indanone | COC1=C2CC(C(C2=CC=C1OC)=O)=NO | C11H11NO4
solvent | methanol | CO | CH4O
product | 4,5-dimethoxy-2-aminoindan hydrochloride | Cl.COC1=C2CC(CC2=CC=C1OC)N | InChI=1S/C11H15NO2.ClH/c1-13-10-4-3-7-5-8(12)6-9(7)11(10)14-2;/h3-4,8H,5-6,12H2,1-2H3;1H
